US04595535
To a solution of 9.64 g of 3-(o-nitrobenzyl)-1,2,4-triazole in 150 ml of tetrahydrofurane, 220 ml of 1.3M aqueous solution of titanium trichloride is added and the mixture is stirred at room temperature for 24 hours. The mixture is cooled in an ice-water bath and concentrated ammonium hydroxide is added dropwise to bring the pH of the solution to 8; the solution is diluted further with water and extracted 4 times with methylene chloride. The combined extracts are decolorized with charcoal, dried over magnesium sulfate, evaporated to a small volume and diluted with ether to give 3-(o-aminobenzyl)-1,2,4-triazole, m.p. 134°-136°.

reactant | 3-(o-nitrobenzyl)-1,2,4-triazole | 9.64 g | [N+](=O)([O-])C1=C(CC2=NNC=N2)C=CC=C1 | C9H8N4O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 3-(o-aminobenzyl)-1,2,4-triazole | NC1=C(CC2=NNC=N2)C=CC=C1 | C9H10N4
